2163-12-25 09:26:00 Physician Attending Progress Note
Chief Complaint: transferred back to the MICU with respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident and Fellow for key portions of the services provided.  I agree
   with his / her note above, including assessment and plan.
   HPI:
   74 y o man with ESRD, CAD, adrenal insufficiency,  CVA, chronic R
   pleural effusion, recently in the ICU s/p PEA arrest during an LP
   believed to be [**2-14**] mucus plug, extubated on [**12-20**], transferred to the
   floor on [**12-23**], returned to the MICU on [**12-24**] after worsening hypoxemia
   on the floor.
   24 Hour Events:
   Noted to be hypoxemic/sat difficult to obtain on the floor
   Received lasix, and CTX changed to cefepime (never received dose)
   Transferred back to the MICU on 35% HFM
   ABG: 7.4/40/80 on arrival to the MICU
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: s/p CVA, non-verbal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-25**] 05:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2163-12-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2163-12-25**] 08:00 AM
   Other medications:
   Simvastatin
   Asa 81 daiy
   Vitamin B complex
   Folate
   Vitamin C
   ISS
   Prednisone 5 mg daily
   CTX 2 gm IV Q24 H
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-25**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96.1
   HR: 67 (63 - 92) bpm
   BP: 136/74(89) {100/51(66) - 141/74(89)} mmHg
   RR: 11 (0 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 66.3 kg
   Height: 71 Inch
             Total In:
             338 mL
   PO:
             TF:
             8 mL
   IVF:
   90 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                      0 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.40/40/80.[**Numeric Identifier 248**]/23/0
   PaO2 / FiO2: 229
   Gen: unresponsive
   Chest: +anterior breath sounds over R side, absent [**2-15**] way up
   posteriorly
   CV: RRR, no m
   Abd: soft, NT/ND, G tube site c/d/i
   Extr: warm, s/p B TMAs, no edema
   Labs / Radiology
   7.4 g/dL
   183 K/uL
   89 mg/dL
   2.1 mg/dL
   23 mEq/L
   3.4 mEq/L
   26 mg/dL
   110 mEq/L
   139 mEq/L
   24.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2163-12-20**]  04:24 AM
                             [**2163-12-20**]  10:50 AM
                             [**2163-12-20**]  02:50 PM
                             [**2163-12-21**]  03:55 AM
                             [**2163-12-21**]  10:26 AM
                            [**2163-12-22**]  02:23 AM
                            [**2163-12-22**]  06:00 AM
                            [**2163-12-23**]  05:54 AM
                            [**2163-12-25**]  01:01 AM
                            [**2163-12-25**]  04:25 AM
   WBC
   6.6
   9.2
   8.2
   9.3
   Hct
   25.3
   24.6
   24.5
   24.0
   Plt
   261
   235
   208
   183
   Cr
   3.8
   2.6
   1.8
   2.1
   TCO2
   28
   25
   23
   23
   0
   26
   Glucose
   118
   170
   85
   89
   Other labs: PT / PTT / INR:15.0/39.4/1.3, ALT / AST:32/35, Alk Phos / T
   Bili:127/0.1, Differential-Neuts:87.7 %, Lymph:7.8 %, Mono:3.5 %,
   Eos:0.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:142 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Micro:
   Sputum [**12-19**]:
RESPIRATORY CULTURE (Final [**2163-12-22**]):
      Commensal Respiratory Flora Absent.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
                 KLEBSIELLA PNEUMONIAE.    RARE GROWTH.
   CXR: near-complete opacification of R side, worse c/w [**2163-12-22**]
   Assessment and Plan
   74 y o man with ESRD, CAD, adrenal insufficiency, s/p recent PEA arrest
   likely [**2-14**] hypoxemia from mucus plugging, recently extubated and
   transferred to the floor, now back in the MICU with respiratory
   distress.
   1. Respiratory distress:  CXR this am with worsening opacification of R
   hemithorax, ?[**2-14**] recurrent mucus plug, new PNA, or volume overload.  L
   side relatively clear.  Normal WBCs, lack of temp; prior sputum with
   klebs and few PSA (the lattter believed to be a colonizer and not
   pathogen by the ID team previously). Has no mental status, no gag, and
   very poor cough with suctioning only.
   - Continue CTX
   - Resend sputum gs + culture
   - Aggressive pulm toilet, chest PT, frequent suctioning, nebs
   2. ESRD: last HD yesterday, ?volume overload contributing to resp
   distress
   - will d/w renal re: ?dialyzing sooner than Tue to remove fluid
   3. DM: continue lantus + SSI
   4. Adrenal insufficiency: normotensive
   - continue prednisone 5 mg
   5. ?neurosyphilis:  on a 14 day course of CTX, LP attempted but not
   done [**2-14**] PEA arrest last week
   ICU Care
   Nutrition: TFs
   NovaSource Renal (Full) - [**2163-12-25**] 08:30 AM 10 mL/hour
   Glycemic Control:  ISS + Lantus
   Lines:
   Midline - [**2163-12-25**] 01:40 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   Communication:  updated family, will try to set up family meeting for
   Monday afternoon
   Code status: Full code
   Disposition : ICU
   Pt is critically ill.
   Total time spent: 32 min CCT

2163-12-26 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Resp failure, GIB
   24 Hour Events:
 MULTI LUMEN - START [**2163-12-26**] 05:30 AM
   Discussed prognosis and goals of care w/ daughter who stated the [**Name (NI) **]
   wanted everything to be tried until there was nothing left to try.
   Had acute bleed from PEG tube so got 2U PRBCs, reinserted femline,
   started on PPI drip and GI is planning on scoping in early a.m.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-25**] 05:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2163-12-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2163-12-26**] 12:05 AM
   Pantoprazole (Protonix) - [**2163-12-26**] 04:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-26**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: -17.2
C (1
   HR: 64 (63 - 91) bpm
   BP: 117/62(76) {100/50(62) - 196/89(107)} mmHg
   RR: 14 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 68.4 kg (admission): 66.3 kg
   Height: 71 Inch
           Total In:
                                                                    885 mL
                                                                    439 mL
   PO:
           TF:
                                                                    355 mL
                                                                    145 mL
   IVF:
                                                                     90 mL
                                                                     49 mL
   Blood products:
   245 mL
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    585 mL
                                                                    439 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   190 K/uL
   7.1 g/dL
   149 mg/dL
   2.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   32 mg/dL
   109 mEq/L
   139 mEq/L
   23.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2163-12-20**]  10:50 AM
                             [**2163-12-20**]  02:50 PM
                             [**2163-12-21**]  03:55 AM
                             [**2163-12-21**]  10:26 AM
                            [**2163-12-22**]  02:23 AM
                            [**2163-12-22**]  06:00 AM
                            [**2163-12-23**]  05:54 AM
                            [**2163-12-25**]  01:01 AM
                            [**2163-12-25**]  04:25 AM
                            [**2163-12-26**]  03:27 AM
   WBC
   6.6
   9.2
   8.2
   9.3
   8.0
   Hct
   25.3
   24.6
   24.5
   24.0
   23.1
   Plt
   261
   235
   208
   183
   190
   Cr
   3.8
   2.6
   1.8
   2.1
   2.6
   TCO2
   25
   23
   23
   0
   26
   Glucose
   118
   170
   85
   89
   149
   Other labs: PT / PTT / INR:14.1/49.2/1.2, ALT / AST:32/35, Alk Phos / T
   Bili:127/0.1, Differential-Neuts:87.7 %, Lymph:7.8 %, Mono:3.5 %,
   Eos:0.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:142 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Microbiology: [**2163-12-25**] 12:00 pm SPUTUM     Site: INDUCED      Source:
   Induced.
                               **FINAL REPORT [**2163-12-25**]**
      GRAM STAIN (Final [**2163-12-25**]):
         >25 PMNs and >10 epithelial cells/100X field.
         Gram stain indicates extensive contamination with upper
   respiratory
         secretions. Bacterial culture results are invalid.
         PLEASE SUBMIT ANOTHER SPECIMEN.
      RESPIRATORY CULTURE (Final [**2163-12-25**]):
         TEST CANCELLED, PATIENT CREDITED
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, OTHER
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ALTERATION IN NUTRITION
   74 yo M with ESRD, effusion, altered mental status, s/p PEA arrest,
   hypotension, hypoxemia, and possible neuro-syphilis.
   .
   # UGIB: Frank blood coming from  PEG tube. HD stable, receiving 2 units
   of PRBCs now.
   -GI holding on EGD given tenuous resp. status
   -Post transfusion HCT
   -PPI gtt, may transition to [**Hospital1 **] PPI IV
   -F/U further HCTs later in the day and transfuse as necessary
   # Hypoxemic respiratory failure: Previous event likely mucous plug as
   before.  Breathing stable on face tent 35% fio2 for humidification.
   Pseudomonas in sputum is likely contaminant.  Will keep right-side up
   to perfuse good side.  Now with Chain-[**Doctor Last Name 1465**] respiration likely from
   neuro disease.
   - reculture if spikes
   - Q4h pulmonary toilet
   - hold cefepime
   - NPO
   - continue to monitor
   -Wil discuss with family other possibilities to limit aspiration
   potential, ? trach.
   # Hypotension:  Stable off pressors.  His shock was likely [**2-14**]
   myocardial stunning from hypoxia and contusion from CPR.  Patient s/p
   PEA arrest which was most likely secondary to respiratory arrest from
   mucous plugging and possibly laying on his right side with all of his
   cardiac output going to non-ventilated lung.
   - on home dose of 5mg prednisone daily
   .
   # Altered mental status: Baseline mental status is not oriented but
   intermittently interactive and talking. Has yet to talk but is moving
   his right side as he previously had. CT head with no signs of worsening
   or anoxic brain injury. Cannot get MRI due to pacemaker. [**Month (only) 60**] be
   persistent hypoactive delirium from sedation or ICU setting.   EEG c/w
   toxic-metabolic.
   -Con
t to monitor
   .
   #Possible Neurosyphilis: Per ID will start CTX
   - CTX 2g Q24 in PM for 14 days
   .
   #ESRD: Mild volume overload.
   - f/u renal recs
   - dialysis dose medications
   - HD per renal
   .
   # Pacemaker: EP interrogated pacer, no episodes of bradycardia.
   Consider getting dual chamber pacer at some point in the future; follow
   up with his cardiologist at [**Hospital1 147**].
   .
   #DMII: Continue previous insulin regimen
   .
   #Vasculopathy:
   - continue simvastatin, lisinopril and ASA when stable
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2163-12-25**] 01:40 AM
   Multi Lumen - [**2163-12-26**] 05:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2163-12-26 09:55:00 Physician Attending Progress Note
Chief Complaint: Recurrent right-lung collapse; PEA
   HPI:
   74M with ESRD, h/o CVA; recent PEA, re-admitted with recurrence of RUL
   collapse and mucus plugging.
   24 Hour Events:
   Noted to have frank blood output from PEG; placed NGT and lavage x 1L
   with eventual clearance.  Started on PPI drip, placed CVL for blood
   transfusion; given PRBC x 2 units.  GI consult obtained regarding
   possible EGD.  HCT stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-25**] 05:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-12-26**] 12:05 AM
   Pantoprazole (Protonix) - [**2163-12-26**] 04:41 AM
   Other medications:
   Simvastatin
   Folic Acid
   MVI
   Insulin sliding scale
   Prednisone 5mg daily
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-26**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   HR: 64 (64 - 91) bpm
   BP: 117/62(76) {101/50(62) - 196/89(107)} mmHg
   RR: 14 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 68.4 kg (admission): 66.3 kg
   Height: 71 Inch
           Total In:
                                                                    885 mL
                                                                    565 mL
   PO:
           TF:
                                                                    355 mL
                                                                    145 mL
   IVF:
                                                                     90 mL
                                                                     70 mL
   Blood products:
   350 mL
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    585 mL
                                                                    565 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool .35
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: Moving spontaneously, withdraws to noxious stimuli
   Chest: clear left; diminished right lung fields
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   7.1 g/dL
   190 K/uL
   149 mg/dL
   2.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   32 mg/dL
   109 mEq/L
   139 mEq/L
   23.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2163-12-20**]  10:50 AM
                             [**2163-12-20**]  02:50 PM
                             [**2163-12-21**]  03:55 AM
                             [**2163-12-21**]  10:26 AM
                            [**2163-12-22**]  02:23 AM
                            [**2163-12-22**]  06:00 AM
                            [**2163-12-23**]  05:54 AM
                            [**2163-12-25**]  01:01 AM
                            [**2163-12-25**]  04:25 AM
                            [**2163-12-26**]  03:27 AM
   WBC
   6.6
   9.2
   8.2
   9.3
   8.0
   Hct
   25.3
   24.6
   24.5
   24.0
   23.1
   Plt
   261
   235
   208
   183
   190
   Cr
   3.8
   2.6
   1.8
   2.1
   2.6
   TCO2
   25
   23
   23
   0
   26
   Glucose
   118
   170
   85
   89
   149
   Other labs: PT / PTT / INR:14.1/49.2/1.2, ALT / AST:32/35, Alk Phos / T
   Bili:127/0.1, Differential-Neuts:87.7 %, Lymph:7.8 %, Mono:3.5 %,
   Eos:0.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:142 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   74M with ESRD, h/o CVA, s/p PEA earlier in hospital course x 8 min now
   back in MICU s/p mucus plugging and hypoxemia.
   1.  GI bleed:  UGI bleed versus nasopharyngeal source
   -  PPI [**Hospital1 **]
   -  ENT consult if continued bleeding; for now should avoid nasal
   suctioning, try afrin x 3 days
   - Doubt utility of EGD at the moment given evidence of stability.
   - discontinue NGT
   2. PNA:  no significant evidence of active PNA without
   fevers/leukocytosis
   - ceftriaxone for neurosyphillis, also coverage of klebsiella; 14day
   course
   3. Respiratory Failure: recurrent mucus plugging; currently has
   adequate oxygenation
   - continue pulmonary toilet
   - Doubt utility of drainage of pleural fluid given chronicity, but will
   review prior records to see if trial of drainage with large volume
   thoracentesis would improve his reserve.
   4. Neuro: mental status improving towards baseline
   - continue to follow
   5. Renal:  HD per renal
   ICU Care
   Nutrition: Holding feeds for now; but likely can restart if no plans
   for EGD
   Glycemic Control:  Insulin sliding scale
   Lines:
   Midline - [**2163-12-25**] 01:40 AM
   Multi Lumen - [**2163-12-26**] 05:30 AM
   Prophylaxis:
   DVT: holding heparin; pneumoboots
   Stress ulcer:  PPI
   VAP: Not intubated
   Communication:  I had long discussion with wife and daughter about
   goals of care and the seemingly poor prognosis. They wish to eventually
   bring Mr [**Known lastname 5787**] back home even if it means that his mental status will
   not improve. Mr [**Known lastname 5787**]
s daughter expressed concern regarding his
   tenuous respiratory status
 explained that major change is the lack of
   a good cough to clear secretions and high chance of recurrent
   aspiration. I recommended we involve the palliative care service for
   home hospice recognizing that home hospice would not be an option if
   hemodialysis is continued.
   Code status: Full code
   Disposition : Critically ill with GIB, recurrent respiratory failure
   requiring frequent pulmonary toilet/suctioning
   Total time spent:  35 minutes

2163-12-27 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   GI decided not to do EGD given tenuous resp. status.
   Post transfusion HCT with appropriate bump with no further bleeding.
   Started on Afrin for ? nasopharyngeal component of bleeding
   Family agreed to palliative care consult.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-26**] 08:33 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2163-12-26**] 02:00 PM
   Pantoprazole (Protonix) - [**2163-12-26**] 08:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-27**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 70 (61 - 101) bpm
   BP: 106/59(71) {106/52(70) - 165/100(117)} mmHg
   RR: 24 (14 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 66.3 kg
   Height: 71 Inch
                  Total In:
                                                                  1,394 mL
                                                                    231 mL
   PO:
                  TF:
                                                                    414 mL
                                                                    231 mL
   IVF:
                                                                    180 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    200 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,194 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   9.4 g/dL
   68 mg/dL
   3.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   37 mg/dL
   110 mEq/L
   139 mEq/L
   28.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2163-12-21**]  10:26 AM
                            [**2163-12-22**]  02:23 AM
                            [**2163-12-22**]  06:00 AM
                            [**2163-12-23**]  05:54 AM
                            [**2163-12-25**]  01:01 AM
                            [**2163-12-25**]  04:25 AM
                            [**2163-12-26**]  03:27 AM
                            [**2163-12-26**]  03:23 PM
                            [**2163-12-26**]  08:45 PM
                            [**2163-12-27**]  03:49 AM
   WBC
   9.2
   8.2
   9.3
   8.0
   9.9
   Hct
   24.6
   24.5
   24.0
   23.1
   29.3
   30.2
   28.9
   Plt
   235
   208
   183
   190
   206
   Cr
   2.6
   1.8
   2.1
   2.6
   3.2
   TCO2
   23
   0
   26
   Glucose
   170
   85
   89
   149
   68
   Other labs: PT / PTT / INR:14.1/49.2/1.2, ALT / AST:32/35, Alk Phos / T
   Bili:127/0.1, Differential-Neuts:87.7 %, Lymph:7.8 %, Mono:3.5 %,
   Eos:0.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:142 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   A/P
   74 yo M with ESRD, effusion, altered mental status, s/p PEA arrest,
   hypotension, hypoxemia, and possible neuro-syphilis.
   .
   # UGIB: Frank blood coming from  PEG tube. HD stable, receiving 2 units
   of PRBCs now.
   -GI holding on EGD given tenuous resp. status
   -Post transfusion HCT
   -PPI gtt, may transition to [**Hospital1 **] PPI IV
   -F/U further HCTs later in the day and transfuse as necessary
   # Hypoxemic respiratory failure: Previous event likely mucous plug as
   before.  Breathing stable on face tent 35% fio2 for humidification.
   Pseudomonas in sputum is likely contaminant.  Will keep right-side up
   to perfuse good side.  Now with Chain-[**Doctor Last Name 1465**] respiration likely from
   neuro disease.
   - reculture if spikes
   - Q4h pulmonary toilet
   - hold cefepime
   - NPO
   - continue to monitor
   -Wil discuss with family other possibilities to limit aspiration
   potential, ? trach.
   # Hypotension:  Stable off pressors.  His shock was likely [**2-14**]
   myocardial stunning from hypoxia and contusion from CPR.  Patient s/p
   PEA arrest which was most likely secondary to respiratory arrest from
   mucous plugging and possibly laying on his right side with all of his
   cardiac output going to non-ventilated lung.
   - on home dose of 5mg prednisone daily
   .
   # Altered mental status: Baseline mental status is not oriented but
   intermittently interactive and talking. Has yet to talk but is moving
   his right side as he previously had. CT head with no signs of worsening
   or anoxic brain injury. Cannot get MRI due to pacemaker. [**Month (only) 60**] be
   persistent hypoactive delirium from sedation or ICU setting.   EEG c/w
   toxic-metabolic.
   -Con
t to monitor
   .
   #Possible Neurosyphilis: Per ID will start CTX
   - CTX 2g Q24 in PM for 14 days
   .
   #ESRD: Mild volume overload.
   - f/u renal recs
   - dialysis dose medications
   - HD per renal
   .
   # Pacemaker: EP interrogated pacer, no episodes of bradycardia.
   Consider getting dual chamber pacer at some point in the future; follow
   up with his cardiologist at [**Hospital1 147**].
   .
   #DMII: Continue previous insulin regimen
   .
   #Vasculopathy:
   - continue simvastatin, lisinopril and ASA when stable
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2163-12-25**] 01:40 AM
   Multi Lumen - [**2163-12-26**] 05:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2163-12-27 10:58:00 Physician Attending Progress Note
Chief Complaint: PEA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Evaluated by GI, no EGD given stable HCT and no evidence of ongoing
   blood loss.
   Family updated by Dr. [**Last Name (STitle) 1135**]; palliative care consult pending.
   HD today.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-26**] 08:33 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2163-12-26**] 02:00 PM
   Pantoprazole (Protonix) - [**2163-12-26**] 08:52 PM
   Other medications:
   Simvastatin
   Vitamin B
   Folic Acid
   Vitamin C
   Insulin sliding scale
   Prednisone 5mg dailiy
   Afrin NS x 3 days
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-27**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 83 (61 - 101) bpm
   BP: 108/61(74) {106/52(67) - 165/100(117)} mmHg
   RR: 23 (18 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 66.3 kg
   Height: 71 Inch
                  Total In:
                                                                  1,394 mL
                                                                    376 mL
   PO:
                  TF:
                                                                    414 mL
                                                                    376 mL
   IVF:
                                                                    180 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    200 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,194 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Gen: somnolent, withdraws to pain, not conversant
   Chest:  clear
   CV:  RRR
   Abd: s/nt/d
   Ext: no edema
   Labs / Radiology
   9.4 g/dL
   206 K/uL
   68 mg/dL
   3.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   37 mg/dL
   110 mEq/L
   139 mEq/L
   28.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2163-12-21**]  10:26 AM
                            [**2163-12-22**]  02:23 AM
                            [**2163-12-22**]  06:00 AM
                            [**2163-12-23**]  05:54 AM
                            [**2163-12-25**]  01:01 AM
                            [**2163-12-25**]  04:25 AM
                            [**2163-12-26**]  03:27 AM
                            [**2163-12-26**]  03:23 PM
                            [**2163-12-26**]  08:45 PM
                            [**2163-12-27**]  03:49 AM
   WBC
   9.2
   8.2
   9.3
   8.0
   9.9
   Hct
   24.6
   24.5
   24.0
   23.1
   29.3
   30.2
   28.9
   Plt
   235
   208
   183
   190
   206
   Cr
   2.6
   1.8
   2.1
   2.6
   3.2
   TCO2
   23
   0
   26
   Glucose
   170
   85
   89
   149
   68
   Other labs: PT / PTT / INR:14.1/49.2/1.2, ALT / AST:32/35, Alk Phos / T
   Bili:127/0.1, Differential-Neuts:87.7 %, Lymph:7.8 %, Mono:3.5 %,
   Eos:0.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:142 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   74M with ESRD on HD, h/o CVA with significant residual deficits,
   transferred to ICU in setting of PEA, now with recurrent hypoxemia in
   setting of mucus plug and collapse.
   1.       Acute respiratory failure / Hypoxemia:
   -  continue NT suctioning prn
   2.       Altered mental status:  Mental status remains unimproved,
   likely in setting of recent PEA.
   - will keep family updated.
   3.       ID:  Possible neurosyphillis
   - continue ceftriaxone
   4.       Chronic renal failure: HD today
   5.       Nasal pharyngeal bleed/Anemia: less likely GI bleed
   -  repeat HCT tomorrow
   - Afrin NS x 3 days total
   6.       Goals of care:  Palliative care consult requested. Plan for
   family meeting if can arrange today or tomorrow.
   ICU Care
   Nutrition: NovaSource Renal (Full) - [**2163-12-27**] 07:02 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2163-12-25**] 01:40 AM
   Multi Lumen - [**2163-12-26**] 05:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Not intubated
   Communication:  Comments: Family updated during rounds; will arrange
   family meeting
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2163-12-28 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered MS
   24 Hour Events:
   Palliative care met with family: goal of bringing pt home.  t/c trach
   to facilitate easier suctioning
   Trasnplant surgery: if patient is FC, he needs fistula repaired.  He
   has high risk of rupture and needs OR prior to d/c from hospital.
   [**Pager number 11151**] p GOC decision.
   [**Hospital3 **] records obtained, but no EGDs in their records
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-26**] 08:33 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-28**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 61 (61 - 95) bpm
   BP: 137/72(89) {88/52(65) - 146/80(108)} mmHg
   RR: 18 (18 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 66.3 kg
   Height: 71 Inch
                  Total In:
                                                                  1,215 mL
                                                                    654 mL
   PO:
                  TF:
                                                                    945 mL
                                                                    354 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    215 mL
                                                                    654 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Absent : right side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   199 K/uL
   9.3 g/dL
   125 mg/dL
   2.3 mg/dL
   23 mEq/L
   3.7 mEq/L
   24 mg/dL
   109 mEq/L
   139 mEq/L
   29.7 %
   9.2 K/uL
        [image002.jpg]
                            [**2163-12-22**]  02:23 AM
                            [**2163-12-22**]  06:00 AM
                            [**2163-12-23**]  05:54 AM
                            [**2163-12-25**]  01:01 AM
                            [**2163-12-25**]  04:25 AM
                            [**2163-12-26**]  03:27 AM
                            [**2163-12-26**]  03:23 PM
                            [**2163-12-26**]  08:45 PM
                            [**2163-12-27**]  03:49 AM
                            [**2163-12-28**]  04:28 AM
   WBC
   9.2
   8.2
   9.3
   8.0
   9.9
   9.2
   Hct
   24.6
   24.5
   24.0
   23.1
   29.3
   30.2
   28.9
   29.7
   Plt
   235
   208
   183
   190
   206
   199
   Cr
   2.6
   1.8
   2.1
   2.6
   3.2
   2.3
   TCO2
   0
   26
   Glucose
   170
   85
   89
   149
   68
   125
   Other labs: PT / PTT / INR:14.7/41.1/1.3, ALT / AST:32/35, Alk Phos / T
   Bili:127/0.1, Differential-Neuts:87.7 %, Lymph:7.8 %, Mono:3.5 %,
   Eos:0.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:142 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Imaging: no recent
   Microbiology: no recent
   Assessment and Plan
 INEFFECTIVE COPING
 AIRWAY CLEARANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, OTHER
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ALTERATION IN NUTRITION
   74 yo M with ESRD, chronic pleural effusion, Hx of large CVA who is
   non-responsive s/p PEA arrest.
   #Unresponsive: Palliative care to continue to see today and will have
   further family meetings discuss possibility of taking him home which
   would likely require trach for suctioning at home.
   - F/u palliative care recs
   - family meeting
   - readdress code status
   - Consider Tracheostomy
   .
   # UGIB: No more blood from PEG, GI does not want to scope, no melena.
   Hct stable
   -GI holding on EGD given tenuous resp. status
   -daily Hct
   - [**Hospital1 **] PPI IV
   - Transfuse Hct<25
   - Restarted TFs
   # Hypoxemic respiratory failure: Has not mucous plugged o/n, only
   intermittently being suctioned. Being treated for possible PNA.
   - reculture if spikes
   - PRN pulmonary toilet
   - hold cefepime
   - continue to monitor
   -Wil discuss with family other possibilities to limit aspiration
   potential, ? trach.
   .
   #Possible Neurosyphilis: Per ID CTX now day [**8-26**].
   - CTX 2g Q24 in PM for 14 days
   .
   #ESRD: S/P HD yesterday. Transplant surgery feels that his fistula
   needs to be repaired prior to his leaving the hospital.
   - f/u renal recs
   - dialysis dose medications
   - HD per renal
   .
   .
   #DMII: Continue previous insulin regimen, TFs restarted
   .
   #Vasculopathy:
   - continue simvastatin, lisinopril and ASA when stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2163-12-28**] 05:41 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2163-12-25**] 01:40 AM
   Multi Lumen - [**2163-12-26**] 05:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2163-12-28 10:01:00 Physician Attending Progress Note
Chief Complaint: PEA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74M with ESRD, CAD; recent PEA.
   24 Hour Events:
   No respiratory events for last 48hours.
   Mental status unchanged.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-28**] 08:00 AM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2163-12-28**] 08:00 AM
   Other medications:
   Simvastatin
   Vitamin B
   folic acid
   Ascorbic acid
   Insulin sliding scale
   Glargine
   Prednisone 5mg daily
   Afrin nasal spray
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-28**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.2
C (95.3
   HR: 73 (61 - 95) bpm
   BP: 102/49(62) {88/49(62) - 146/80(108)} mmHg
   RR: 20 (18 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.6 kg (admission): 66.3 kg
   Height: 71 Inch
             Total In:
                                                                  1,215 mL
                                                                    869 mL
   PO:
             TF:
                                                                    945 mL
                                                                    449 mL
   IVF:
   60 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    215 mL
                                                                    869 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Gen: somnolent but opens eyes and moans to voice
   Chest: clearing, less rhonchorous
   CV:  RRR
   Abd; s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   9.3 g/dL
   199 K/uL
   125 mg/dL
   2.3 mg/dL
   23 mEq/L
   3.7 mEq/L
   24 mg/dL
   109 mEq/L
   139 mEq/L
   29.7 %
   9.2 K/uL
        [image002.jpg]
                            [**2163-12-22**]  02:23 AM
                            [**2163-12-22**]  06:00 AM
                            [**2163-12-23**]  05:54 AM
                            [**2163-12-25**]  01:01 AM
                            [**2163-12-25**]  04:25 AM
                            [**2163-12-26**]  03:27 AM
                            [**2163-12-26**]  03:23 PM
                            [**2163-12-26**]  08:45 PM
                            [**2163-12-27**]  03:49 AM
                            [**2163-12-28**]  04:28 AM
   WBC
   9.2
   8.2
   9.3
   8.0
   9.9
   9.2
   Hct
   24.6
   24.5
   24.0
   23.1
   29.3
   30.2
   28.9
   29.7
   Plt
   235
   208
   183
   190
   206
   199
   Cr
   2.6
   1.8
   2.1
   2.6
   3.2
   2.3
   TCO2
   0
   26
   Glucose
   170
   85
   89
   149
   68
   125
   Other labs: PT / PTT / INR:14.7/41.1/1.3, ALT / AST:32/35, Alk Phos / T
   Bili:127/0.1, Differential-Neuts:87.7 %, Lymph:7.8 %, Mono:3.5 %,
   Eos:0.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:142 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   74yoM with h/o CVA, ESRD; recent PEA.
   1.       Respiratory failure:
   - improved mucus plugging with pulmonary toilet
   - Meet with family today regarding general goals of care.
   - Stable for transfer to floor, continue pulmonary toilet
   2.       Neuro:
   - stable neuro status, close to baseline.
   3.       ESRD:
   - HD yesterday
   4.       Goals of care:  Attempting to arrange family meeting. We have
   been communicating the issues with the patient
s PCP, [**Name10 (NameIs) **] [**Last Name (STitle) 8345**].
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2163-12-28**] 05:41 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2163-12-25**] 01:40 AM
   Multi Lumen - [**2163-12-26**] 05:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not intubated
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes